US08871782B2
A mixture of 1-(2-methylpropyl)-2-propyl-1H-imidazo[4,5-c]quinolin-7-ol (0.500 g, 1.76 mmol), triphenylphosphine (0.462 g, 1.76 mmol), and 1-(2-hydroxyethyl)pyrrolidin-2-one (0.200 mL, 1.77 mmol) in THF (17 mL) was cooled to 0° C. Diethyl azodicarboxylate (0.277 mL) was added dropwise, and the reaction mixture was allowed to warm to ambient temperature and stirred for 19 hours. Solid unreacted 1-(2-methylpropyl)-2-propyl-1H-imidazo[4,5-c]quinolin-7-ol (0.150 g, 0.42 mmol) was removed by filtration, and the filtrate was concentrated under reduced pressure. The residue was purified by column chromatography on silica gel (eluting with 98:2 dichloromethane:methanol) to provide 0.456 g of 1-{2-[1-(2-methylpropyl)-2-propyl-1H-imidazo[4,5-c]quinolin-7-yloxy]ethyl}pyrrolidin-2-one an off-white, waxy solid.

reactant | 1-(2-methylpropyl)-2-propyl-1H-imidazo[4,5-c]quinolin-7-ol | 1.76 mmol, 0.500 g | CC(CN1C(=NC=2C=NC=3C=C(C=CC3C21)O)CCC)C | C17H21N3O
reactant | triphenylphosphine | 1.76 mmol, 0.462 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | 1-(2-hydroxyethyl)pyrrolidin-2-one | 1.77 mmol, 0.200 mL | OCCN1C(CCC1)=O | C6H11NO2
reactant | Diethyl azodicarboxylate | 0.277 mL | N(=NC(=O)OCC)C(=O)OCC | C6H10N2O4
reactant | 1-(2-methylpropyl)-2-propyl-1H-imidazo[4,5-c]quinolin-7-ol | 0.42 mmol, 0.150 g | CC(CN1C(=NC=2C=NC=3C=C(C=CC3C21)O)CCC)C | C17H21N3O
solvent | THF | 17 mL | C1CCOC1 | C4H8O
product | 1-{2-[1-(2-methylpropyl)-2-propyl-1H-imidazo[4,5-c]quinolin-7-yloxy]ethyl}pyrrolidin-2-one | 0.456 g | CC(CN1C(=NC=2C=NC=3C=C(C=CC3C21)OCCN2C(CCC2)=O)CCC)C | C23H30N4O2
